US05958942
i) Synthesis of 2-ethyl-5-hydroxymethylimidazo[1,2-a]pyridine
To a solution of 5.29 g (24.24 mmol) of ethyl ester of 2-ethylimidazo[1,2-a]pyridine-5-carboxylic acid was added 2.75 g (72.72 mmol) of sodium borohydride under ice-cooling. The reaction mixture was stirred for 3 hours under ice-cooling. The reaction mixture was then poured into 150 ml of ice-water. The reaction mixture was mixed well, to which was added 12N HCl until the pH of the solution reached 2. This solution was stirred for two hours at room temperature, which was neutralized with a 6N aqueous solution of sodium hydroxide. The solvent was completely distilled off under reduced pressure. To the residue was added 200 ml of methanol. The mixture was mixed well, then insolubles were filtered off. The solvent was distilled off under reduced pressure to give 2.99 g of a crude product (70%, white solid). This crude product was used, without purification, in the subsequent reaction.

reactant | 2-ethylimidazo[1,2-a]pyridine-5-carboxylic acid | C(C)C=1N=C2N(C(=CC=C2)C(=O)O)C1 | C10H10N2O2
reactant | sodium borohydride | 72.72 mmol, 2.75 g | [BH4-].[Na+]
reactant | HCl | 12N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-ethyl-5-hydroxymethylimidazo[1,2-a]pyridine | 2.99 g, 70% | C(C)C=1N=C2N(C(=CC=C2)CO)C1 | C10H12N2O
